US05206240
Step C: Preparation of 3,4-Dihydro-7-methanesulfonamido-1-oxospiro[napthalene-2(1H),4'-piperidine]hydrochloride
A solution of 0.53 g (1.5 mmoles) 1'-acetyl-3,4-dihydro-7-methanesulfonamido-1-oxospiro[naphthalene-2(1H),4'-piperidine] in 15 ml ethanol and 5 ml 3N hydrochloric acid was heated at reflux for 18 hours. An additional 10 ml 3N hydrochloric acid was added and the solution was heated at reflux for 5 hours, then cooled to room temperature. The solvents were removed in vacuo and the residue was stirred with 3 ml ethanol to give a solid which was filtered off and dried to give 0.35 g (67%) product, m.p. 277°-279° C.

reactant | 1'-acetyl-3,4-dihydro-7-methanesulfonamido-1-oxospiro[naphthalene-2(1H),4'-piperidine] | 1.5 mmoles, 0.53 g | C(C)(=O)N1CCC2(CC1)C(C1=CC(=CC=C1CC2)NS(=O)(=O)C)=O | C17H22N2O4S
reactant | hydrochloric acid | 3N, 5 ml | Cl | ClH
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3,4-Dihydro-7-methanesulfonamido-1-oxospiro[napthalene-2(1H),4'-piperidine]hydrochloride | 0.35 g, 67% | Cl.CS(=O)(=O)NC1=CC=C2CCC3(CCNCC3)C(C2=C1)=O | InChI=1S/C15H20N2O3S.ClH/c1-21(19,20)17-12-3-2-11-4-5-15(6-8-16-9-7-15)14(18)13(11)10-12;/h2-3,10,16-17H,4-9H2,1H3;1H
